US06387899B1
(S)—N-[8—Carbamoyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-benzoylbenzamide
4—Benzoylbenzoic acid (95 mg, 0.42 mmol) and 1,1′-carbonyldiimidazole (71 mg, 0.44 mmol) were dissolved in N,N-dimethylformamide (2 mL) and stirred at 75° C. for 1 h. The reaction mixture was cooled to room temperature and a solution of (S)-2-amino-8-carbamoyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (120 mg, 0.40 mmol) in N,N-dimethylformamide (5 mL) was added. The reaction mixture was stirred at room temperature for 4 days and the solvent was evaporated in vacuo giving 290 mg of a crude product. Purification by preparative TLC on silica using chloroform/ethanol (saturated with ammonia) (15:1) as the eluent afforded 75 mg (38% yield) of the title compound: mp 259° C. (dec); EIMS (70eV) m/z (relative intensity) 498 (38, M+); [α]21D−3° (c 0.1, chloroform).

reactant | 4—Benzoylbenzoic acid | 0.42 mmol, 95 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | 1,1′-carbonyldiimidazole | 0.44 mmol, 71 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-2-amino-8-carbamoyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 0.40 mmol, 120 mg | N[C@H]1OC2=C(CC1)C(=CC=C2C(N)=O)N2CCN(CC2)C | C15H22N4O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)—N-[8—Carbamoyl-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-benzoylbenzamide | 75 mg, 38% yield | C(N)(=O)C1=CC=C(C=2C[C@@H](COC21)NC(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)N2CCN(CC2)C | C29H30N4O4
